Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
___: Cardiac angiography and thrombectomy 

 
History of Present Illness:
Mr. ___ is a ___ year old male who was recently admitted for
L2-5 laminectomy who presented initially to ___ with chest pain,
dizziness, shortness of breath, nausea, and sweating.

Patient reports that his symptoms started while he was going for
a walk around the block about ___ minutes prior to 
presentation
at ___. He reports that he is supposed to walk for 15 minutes
every evening as part of his recovery from his recent back
surgery (___). He was doing this prescribed exercise when
the symptoms started. He reports that the symptoms were moderate
to severe and that he was experiencing pressure in the ___
his chest alone with dizziness, shortness of breath, nausea, and
sweating. He denied any abdominal pain or back pain at this 
time.
He denies ever experiencing symptoms like this in the past.

Upon arrival to ___ an EKG was performed which reportedly showed
ST elevation in V1 through V4. He was given full dose aspirin,
600mg of clopidogrel, 4000U heparin, 0.4 mg SL nitroglycerin x2,
and 4mg of morphine prior to transfer to ___. 

 
Past Medical History:
Cauda Equina ___ s/p L2-L5 Laminectomy 
 
Social History:
___
Family History:
Alcoholism in mother and father
 
Physical Exam:
Admission Physical Exam:
=======================
VS:  
T 98.1. HR 109, BP 138/99, MAP 111, RR 19, SpO2 99% RA
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple.   
CARDIAC: RRR no m/r/g
LUNGS: CTAB no r/r/w
ABDOMEN: Soft, NT, ND, +BS
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. Radial access site with TR x2. Femoral access
site without obvious bleeding. 
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

Discharge Physical Exam:
========================
VS:24 HR Data (last updated ___ @ 502) 
Temp: 98.0 (Tm 98.8), BP: 125/75 (102-135/63-81), HR: 93 
(79-93),
RR: 18 (___), O2 sat: 99% (95-99), O2 delivery: RA, Wt: 197.31
lb/89.5 kg 
  Last 8 hours Total cumulative 7ml
    IN: Total 357ml, IV Amt Infused 357ml
    OUT: Total 350ml, Urine Amt 350ml
  Last 24 hours Total cumulative 257ml
    IN: Total 957ml, PO Amt 600ml, IV Amt Infused 357ml
    OUT: Total 700ml, Urine Amt 700ml 
Tele: borderline tachycardia, PVCs

GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple.   
CARDIAC: RRR no m/r/g
LUNGS: CTAB no r/r/w
ABDOMEN: Soft, NT, ND, +BS
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:27AM   GLUCOSE-117* UREA N-18 CREAT-0.8 SODIUM-137 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-21* ANION GAP-11
___ 01:27AM   ALT(SGPT)-36 AST(SGOT)-225* LD(LDH)-638* ALK 
PHOS-58 TOT BILI-0.5
___ 01:27AM   cTropnT-6.18*
___ 01:27AM   ALBUMIN-3.4* CALCIUM-8.4 PHOSPHATE-3.5 
MAGNESIUM-1.8 CHOLEST-165
___ 01:27AM   %HbA1c-5.7 eAG-117
___ 01:27AM   TRIGLYCER-74 HDL CHOL-45 CHOL/HDL-3.7 
LDL(CALC)-105
___ 01:27AM   WBC-17.3* RBC-4.14* HGB-11.5* HCT-36.9* 
MCV-89 MCH-27.8 MCHC-31.2* RDW-13.4 RDWSD-43.8
___ 01:27AM   PLT COUNT-440*
___ 10:23PM   GLUCOSE-119* UREA N-20 CREAT-1.0 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-23 ANION GAP-15
___ 10:23PM   estGFR-Using this
___ 10:23PM   cTropnT-0.18*
___ 10:23PM   WBC-19.0* RBC-4.46* HGB-12.7* HCT-40.1 MCV-90 
MCH-28.5 MCHC-31.7* RDW-13.3 RDWSD-43.6
___ 10:23PM   NEUTS-80.2* LYMPHS-12.4* MONOS-5.6 EOS-0.5* 
BASOS-0.5 IM ___ AbsNeut-15.25* AbsLymp-2.36 AbsMono-1.07* 
AbsEos-0.10 AbsBaso-0.09*
___ 10:23PM   PLT COUNT-450*
___ 10:23PM   ___ PTT-75.0* ___

PERTINENT STUDIES
================= 
___ 10:23PM BLOOD cTropnT-0.18*
___ 01:27AM BLOOD CK-MB-304* cTropnT-6.18*
___ 11:46AM BLOOD CK-MB-255* cTropnT-4.41*
___ 05:26PM BLOOD CK-MB-150* cTropnT-4.19*
___ 01:27AM BLOOD %HbA1c-5.7 eAG-117
___ 01:27AM BLOOD Triglyc-74 HDL-45 CHOL/HD-3.7 LDLcalc-105

Cardiac Cath ___
=====================
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems. LAD: The Left Anterior 
Descending artery, which arises from the LM, is a large caliber 
vessel. There is a severe thrombus with a TIMI flow grade of 0 
in the mid segment. There is a 100% stenosis in the mid segment. 
The Septal Perforator, arising from the proximal segment, is a 
small caliber vessel. The ___ Diagonal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Diagonal, 
arising from the mid segment, is a medium caliber vessel. There 
is a 100% stenosis in the proximal segment. There is a severe 
thrombus in the proximal, mid, and distal segments. Cx: The 
Circumflex artery, which arises from the LM, is a large caliber 
vessel. The ___ Obtuse Marginal, arising from the proximal 
segment, is a medium caliber vessel. The ___ Obtuse Marginal, 
arising from the mid segment, is a medium caliber vessel. RCA: 
The Right Coronary Artery, arising from the right cusp, is a 
large caliber vessel. The Acute Marginal, arising from the 
proximal segment, is a small caliber vessel. The Right Posterior 
Descending Artery, arising from the distal segment, is a medium 
caliber vessel. The Right Posterolateral Artery, arising from 
the distal segment, is a medium caliber vessel. 

Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. A 6 ___ EBU3.5 guide provided adequate 
support. Crossed with a Runthrough wire into the distal LAD. 
Predilated with a 2.0 mm balloon and then aspiration 
thrombectomy x 2 passes. Significant improvement in thrombus 
burden. Final angiography revealed normal flow, no dissection 
and 0% residual stenosis. Diagnonal 2 with thrombus was wired 
and dottered with improvement in flow. The procedure was not 
feasible without moderate sedation. There were no clinically 
significant complications.
Findings
• Single vessel coronary artery disease.
• Acute occlusion of the LAD. After aspiration thrombectomy 
(large clots aspirated), there was no lesion (plaque, dissection 
or residual thromus) seen in the mid and distal LAD by ___. 
Thrombus in the diagonal also improved after "dottering". No 
stent placed.

TTE ___
===========
CONCLUSION:
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
moderate to severe regional left ventricular systolic 
dysfunction with akinesis of the mid- and distal segments of the 
anterior wall, septum and apex (see schematic) and 
preserved/normal contractility of the remaining segments. No 
thrombus or mass is seen in the left ventricle. The visually 
estimated left ventricular ejection fraction is ___. Left 
ventricular cardiac index is normal (>2.5 L/ min/m2). There is 
no resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with focal hypokinesis of the apical 
free wall. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) appear structurally 
normal. There is no aortic valve stenosis. There is trace aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with mild posterior leaflet systolic prolapse. There is 
physiologic mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is trivial tricuspid 
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is a small pericardial effusion. IMPRESSION: 
Severe regional left ventricular systolic dysfunction, c/w CAD. 
Mild regional right ventricular systolic dysfunction. Mild 
pulmonary hypertension.

___ Scrotal Ultrasound
=======================
In the supine position: 
The right testicle measures: 5.7 x 3.7 x 3.1 cm. 
The left testicle measures: 5.1 x 3.2 x 2.9 cm. 
  
The testicular echogenicity is normal, without focal 
abnormalities. 
The epididymides are normal bilaterally. 
Vascularity is normal and symmetric in the testes and 
epididymides. 
  
In the sitting and standing positions the testes are similar in 
appearance 
with symmetrical flow visualized on Doppler imaging.  No hernia 
is visualized. 
  
IMPRESSION: Normal scrotal ultrasound.  Images were obtained in 
the supine, sitting and standing positions and no abnormality 
was identified. 

___ Focused TTE with Bubble Study
==================================
CONCLUSION: There is no evidence of an atrial septal defect or 
patent foramen ovale by 2D/color Doppler or agitated saline at 
rest and with maneuvers. There is SEVERE regional left 
ventricular systolic dysfunction with hypokinesis to akinesis of 
the distal half of the left ventricle. Overall left ventricular 
systolic function appears moderately to severely depressed. 
Compared with the prior TTE (images reviewed) of ___, LV 
function appears similar to slightly more vigorous at the base. 
Saline contrast was used in this study to evaluate the 
interatrial septum.

DISCHARGE LABS:
===============
___ 08:27AM BLOOD WBC-10.8* RBC-4.74 Hgb-13.2* Hct-41.2 
MCV-87 MCH-27.8 MCHC-32.0 RDW-13.4 RDWSD-42.2 Plt ___
___ 08:27AM BLOOD ___ PTT-105.7* ___
___ 08:27AM BLOOD Glucose-97 UreaN-22* Creat-0.9 Na-139 
K-4.6 Cl-103 HCO3-23 AnGap-13
___ 08:27AM BLOOD Calcium-9.4 Phos-3.8 Mg-1.8
 
Brief Hospital Course:
SUMMARY:
=========
Mr. ___ is a ___ year old male who was recently admitted for 
L2-5 laminectomy who presented initially to CHA with chest pain 
found to have STEMI, transferred to ___ for cath and 
management.

#CORONARIES: Single vessel CAD, 100% occlusion, now s/p 
thrombectomy.
#PUMP: LVEF25-30% (___)
#RHYTHM: Sinus

TRANSITIONAL ISSUES 
=========================== 
- Warfarin for ___ months for thrombus formation prevention, 
repeat TTE in 3 months to see if he still needs it
- Will receive Ziopatch at ___ Cardiology f/u visit to assess 
if afib (?cardioembolic process to STEMI)
- Not on ASA given on AC, needs to be restarted if comes off of 
warfarin
- PCP, ___, Spine appointments post-discharge

ACUTE ISSUES: 
============= 
#Anterior STEMI
#Apical Akinesis
Patient presented initially to CHA with ___ minutes of chest 
pain. EKG demonstrated ST elevations in V1-4. He was given 
aspirin, clopidogrel, heparin gtt, nitro, and morphine and 
transferred to ___ for further management. On arrival, he was 
taken to the cath lab where a thrombectomy of the LAD was 
performed. No stents were placed. There were no residual 
coronary artery disease visualized on the cath, raising concern 
for an embolic source of the stroke. Plan is for him to follow 
up with Dr. ___ in clinic to arrange for ziopatch placement 
in order to quantify any possible paroxysmal atrial 
fibrillation, although we did not identify this on telemetry 
during his stay. He had a negative TTE with bubble study. He has 
a newly depressed ejection fraction of ___. The patient was 
started on aspirin, clopidogrel, atorvastatin, metoprolol, and 
lisinopril for cardioprotection. He was started on warfarin for 
prevention of thrombus prevention given apical akinesis; he 
should receive a follow up TTE in 3 months post-discharge to 
assess return of function and possible cessation of warfarin. On 
discharge, his INR was 2.1.

#Scrotal swelling
Patient was very concerned about a described "dusky" 
discoloration of the scrotal skin skin his recent laminectomy. 
The patient was evaluated by Ortho Spine and Urology. Urology 
felt it could be related to nerve damage after recent spine 
surgery. Can continue to monitor.

#S/p laminectomy
Patient was recently admitted on ___ for severe central canal 
stenosis at L3-L4 with almost complete obliteration, consistent 
with cauda equina and had a laminectomy performed. Ortho Spine 
saw pt during this hospitalization and advised outpatient follow 
up 2 weeks post-discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
2. Cyclobenzaprine 10 mg PO BID:PRN pain/spasm 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily in the 
evenings Disp #*90 Tablet Refills:*0
RX *atorvastatin 80 mg 1 tablet(s) by mouth qpm Disp #*3 Tablet 
Refills:*0 
2.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0 
3.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*3 Tablet 
Refills:*0 
4.  Metoprolol Succinate XL 150 mg PO DAILY 
RX *metoprolol succinate 100 mg 1.5 tablet(s) by mouth daily 
Disp #*135 Tablet Refills:*0
RX *metoprolol succinate 100 mg 1.5 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0 
5.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
If you continue to have chest pain after 3 doses of medication, 
please call PCP ___ go to ER. 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually every 5 
minutes Disp #*3 Tablet Refills:*0 
6.  Warfarin 6 mg PO DAILY16 
RX *warfarin 2 mg 3 tablet(s) by mouth daily Disp #*270 Tablet 
Refills:*0
RX *warfarin [Coumadin] 6 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
7.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
8.  Cyclobenzaprine 10 mg PO BID:PRN pain/spasm  
9.Outpatient Lab Work
INR Check on ___ (At ___ in ___ 
___). Please fax result to ___ 
(___).

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
1) Anterior Myocardial Infarction 

Secondary Diagnosis:
====================
1) Scrotal Pain 
2) Cauda Equina s/p L3/L4 Laminectomy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL?  
-You were admitted to the hospital because you had a large heart 
attack 
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
-We removed the blood clot which caused your heart attack 
-We started you on a blood thinner called warfarin to prevent 
blood clots 
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- IF YOU DEVELOP CHEST PAIN, and it does not go away after 3 
doses of nitroglycerin medication, PLEASE GO TO THE EMERGENCY 
DEPARTMENT
- Please go to the ___ Pharmacy ___ Building) to pick up 
your medications on ___ and also the ___ 
Associates Atrium Suite for blood draw (same building, ground 
floor, opposite Pharmacy).
- Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___!  

We wish you all the best!  

Signed, 
Your ___ Care Team  
 
Followup Instructions:
___